US07947255B2
4-(4-(dimethylamino)phenyl)-1-methylpyridinium iodide (IDT307) (III).
N,N-dimethyl-4-(pyridine-4-yl) aniline (0.15 g, 7.6 mmols) was dissolved in acetonitrile (50 ml) and methyl iodide (4 ml) was added. The mixture was heated at reflux for 4 hrs then cooled to ambient temperature. IDT307 (0.17 g, 5 mmols) crystallized upon standing and was removed via filtration. 1H NMR (DMSO-d6) δ 3.40 (s, 6H), 4.25 (s, 3H), 6.92 (d, 2H), 8.06 (d, 2H), 8.38 (d, 2H), 8.80 (d, 2H).

reactant | N,N-dimethyl-4-(pyridine-4-yl) aniline | 7.6 mmols, 0.15 g | CN(C1=CC=C(C=C1)C1=CC=NC=C1)C | C13H14N2
reactant | methyl iodide | 4 ml | CI | CH3I
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 4-(4-(dimethylamino)phenyl)-1-methylpyridinium iodide | [I-].CN(C1=CC=C(C=C1)C1=CC=[N+](C=C1)C)C | InChI=1S/C14H17N2.HI/c1-15(2)14-6-4-12(5-7-14)13-8-10-16(3)11-9-13;/h4-11H,1-3H3;1H/q+1;/p-1
